US09023847B2
3. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (tetrahydro-furan-2-ylmethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 1-(tetrahydrofuran-2-yl)methaneamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 343 (M+H) 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 10.54 (1H, s) 8.01 (1H, d, J=7.03 Hz) 7.67 (1H, d, J=5.27 Hz) 7.42 (1H, d, J=5.27 Hz) 7.39 (1H, dd, J=3.42, 1.85 Hz) 6.97 (1H, d, J=6.83 Hz) 6.66 (1H, dd, J=3.42, 1.66 Hz) 3.95 (1H, qd, J=6.80, 4.59 Hz) 3.72 (1H, dt, J=8.15, 6.56 Hz) 3.57-3.66 (1H, m) 3.29-3.48 (2H, m) 1.87-1.97 (3H, m) 1.77-1.86 (2H, m) 1.48-1.60 (1H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 1-(tetrahydrofuran-2-yl)methaneamine | O1C(CCC1)CN | C5H11NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (tetrahydro-furan-2-ylmethyl)-amide | O1C(CCC1)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H18N4O2S
